US06936602B1
In 1,2-dichloroethane (5 ml) were dissolved methyl 7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.3 g) and cyclopropanecarboaldehyde (0.22 g). To the solution was added sodium triacetoxyborohydride (0.33 g), and the mixture was stirred under nitrogen atmosphere at room temperature for 4 hours, poured into water, neutralized with sodium hydrogen carbonate solution and extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried with anhydrous magnesium sulfate. The solvent was evaporated to give methyl 1-cyclopropylmethyl-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate (0.34 g) as yellow oil.

reactant | methyl 7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.3 g | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCN2)C(=O)OC)C1 | C23H27NO4
reactant | cyclopropanecarboaldehyde | 0.22 g | C1(CC1)C=O | C4H6O
reactant | sodium triacetoxyborohydride | 0.33 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | 1,2-dichloroethane | 5 ml | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | methyl 1-cyclopropylmethyl-7-[4-(2-propoxyethoxy)phenyl]-2,3-dihydro-1H-1-benzazepine-4-carboxylate | 0.34 g | C1(CC1)CN1CCC(=CC2=C1C=CC(=C2)C2=CC=C(C=C2)OCCOCCC)C(=O)OC | C27H33NO4
